US04885283
In a manner analogous to that described in Example 3 (A), from 0.4 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate and 0.178 g of 3-methoxy-phthalic anhydride, there was obtained 0.1 g of [(3-methoxyphthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester in the form of a colorless foam.

reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate | 0.4 g | C(C)(=O)O.COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN
reactant | 3-methoxy-phthalic anhydride | 0.178 g | COC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O4
product | [(3-methoxyphthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester | 0.1 g | COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C(C=2C(C1=O)=C(C=CC2)OC)=O | C25H38N3O7P
